US05130119
(a) 2-Bromo-4-fluoro-6(trifluoromethyl)-phenol
9 g (500 mmol) of 4-fluoro-2-(trifluoromethyl)-phenol is dissolved in 100 ml of dichloroethane, the solution is stirred at 50° C. and a solution of 9.6 g (60 mmol) of bromine in 30 ml of dichloroethane is instilled in the course of 2 hours. When the instillation is completed, it is stirred for 1 more hour at 50° C. and then concentrated by evaporation in a vacuum. The oily residue is dissolved in 100 ml of dichloroethane and shaken out three times with 20 ml of water each. The organic phase is dried on magnesium sulfate, filtered, concentrated by evaporation and the residue is chromatographed on silica gel 60 (Merck) ethyl acetate/hexane. 8.07 g (31.15 mmol)=62.3% of the theoretical yield is obtained as a partially crystalline solid.

reactant | 4-fluoro-2-(trifluoromethyl)-phenol | 500 mmol, 9 g | FC1=CC(=C(C=C1)O)C(F)(F)F | C7H4F4O
reactant | bromine | 60 mmol, 9.6 g | BrBr | Br2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
product | 2-Bromo-4-fluoro-6(trifluoromethyl)-phenol | BrC1=C(C(=CC(=C1)F)C(F)(F)F)O | C7H3BrF4O
